data/mechanism_extracts/JACS/10.1021_jacs.7b04363.json
{"doi": "10.1021_jacs.7b04363", "journal": "JACS", "is_review": false, "rxn_class_summary": "Visible-light-excited asymmetric intermolecular [2+2] photocycloaddition of α,β-unsaturated 2-acyl imidazoles (and related N,O-chelating substrates) with alkenes catalyzed by a chiral-at-rhodium Lewis acid (Δ-RhS).", "mechanism_family": ["biradical", "other"], "electrochemical_role": null, "key_intermediates": [{"name": "Rh(III)/substrate N,O-chelate ground-state complex (I)", "smiles": null, "role": "resting_state"}, {"name": "Rh-bound substrate singlet excited state S1 (II)", "smiles": null, "role": "transient"}, {"name": "Rh-bound substrate triplet excited state T1 (III)", "smiles": null, "role": "reactive"}, {"name": "Rh-coordinated 1,4-triplet biradical from addition to alkene (IV)", "smiles": null, "role": "reactive"}, {"name": "Rh-coordinated cyclobutane product complex (V)", "smiles": null, "role": "transient"}], "electron_flow": "Substrate coordinates to chiral Rh(III) via N,O-chelation, red-shifting absorption; visible light directly excites the Rh-substrate complex to S1, which undergoes ISC to a triplet state localized on the enone alkene; this triplet adds to the alkene cosubstrate to form a 1,4-biradical that ring-closes (after ISC) to the chiral cyclobutane, then dissociates from Rh.", "rate_determining_step": null, "probe_reagents": [{"name": "benzil (triplet sensitizer)", "smiles": "O=C(C(=O)c1ccccc1)c1ccccc1", "purpose": "intermediate_trap", "observation": "Racemic [2+2] product 3a obtained with benzil as sensitizer in place of Δ-RhS, supporting a triplet pathway."}, {"name": "2,5-dimethylhexa-2,4-diene (triplet quencher)", "smiles": "CC(C)=CC=C(C)C", "purpose": "radical_trap", "observation": "Reaction 1a + 2a → 3a significantly inhibited, consistent with a triplet intermediate."}, {"name": "(E)- vs (Z)-1p substrate diastereomers", "smiles": null, "purpose": "other", "observation": "Both (E)- and (Z)-1p give the same diastereomer of 3p with >20:1 d.r. and 99% ee, indicating configurational lability (a biradical/triplet) at the alkene during cycloaddition."}, {"name": "Cyclic voltammetry / redox potentials of RhS-1a", "smiles": null, "purpose": "redox_probe", "observation": "Excited-state potentials (E[Rh]+/[Rh]* = -0.78 V; E[Rh]*/[Rh]- = +0.88 V) insufficient to oxidize/reduce styrene (Ep red = -2.91 V; E1/2 ox = +2.05 V), excluding photoredox/SET."}, {"name": "DFT on RhS-1a T1 state", "smiles": null, "purpose": "other", "observation": "Spin density localized on the alkene carbons of the coordinated enone, consistent with alkene-localized triplet reactivity in [2+2]."}, {"name": "UV/Vis of RhS, 1a, RhS-1a", "smiles": null, "purpose": "other", "observation": "RhS-1a complex shows red-shifted absorption into the visible, demonstrating direct visible-light activation of the Lewis acid/substrate complex."}], "evidence_types_used": ["intermediate_trap_other", "stoichiometric_intermediate", "UV_vis", "DFT", "cyclic_voltammetry", "other"], "evidence_strength": "strong", "notes": "A photoredox/SET pathway was explicitly excluded based on excited-state redox potentials. Alternative mechanisms considered include triplet sensitization of free substrate (ruled out because Rh-substrate complex absorbs visible light directly and gives enantioselective product, whereas benzil sensitization gives racemate). The favored mechanism is direct visible-light excitation of the Rh-bound substrate followed by ISC to an alkene-localized triplet that undergoes stepwise biradical [2+2] cycloaddition under chiral Lewis acid control."}
